US04593090
2-Chloroethyl isocyanate (1.35 g) and silver carbonate (2.14 g) were added to a solution of n-butyl 6-(2-methyl-2-propenylamino)-6-deoxy-α-D-glucopyranoside hydrochloride (3.47 g, 10.6 mmol) in a mixture of water (25 ml) and acetonitrile (40 ml) at 0° to 5° C., and the mixture was heated under reflux on a water bath for 1 hour. Then, the reaction mixture was filtered while hot to remove the insoluble silver salt. The filtrate was vacuum-concentrated and crystallized from ethanol and water, giving 2.73 g of 3-(2-methyl-2-propenyl)-3-(n-butyl α-D-glucopyranose-6-yl)-1-(2-chloroethyl)urea; yield 65.2%, m.p. 110°-112° C., [α]D20 +59.2° (C 1.0, methanol).

reactant | 2-Chloroethyl isocyanate | 1.35 g | ClCCN=C=O | C3H4ClNO
reactant | n-butyl 6-(2-methyl-2-propenylamino)-6-deoxy-α-D-glucopyranoside hydrochloride | 10.6 mmol, 3.47 g | Cl.CC(CNC[C@@H]1[C@H]([C@@H]([C@H]([C@@H](OCCCC)O1)O)O)O)=C
reactant | water | 25 ml | O | H2O
solvent | acetonitrile | 40 ml | C(C)#N | C2H3N
catalyst | silver carbonate | 2.14 g | C([O-])([O-])=O.[Ag+2]
product | 3-(2-methyl-2-propenyl)-3-(n-butyl α-D-glucopyranose-6-yl)-1-(2-chloroethyl)urea | 2.73 g, yield 65.2% | CC(CN(C(NCCCl)=O)C([C@@H]1[C@H]([C@@H]([C@H]([C@@](O)(O1)CCCC)O)O)O)O)=C | C17H31ClN2O7
